US07094913B2
Synthesis of 1-methyl-2,3-dimethylene-8-oxa-bicyclo[3.2.1]octane
1.50 mL of diethyl ether was added to 5-hydroxy-7-trimethylsilanylmethyl-nona-7,8-diene-2-one (86 mg, 0.36 mmol) under nitrogen atmosphere. While stirring at −78° C., trimethylsilyl trifluoromethanesulfonate (TMSOTf; 64.7 μL, 0.36 mmol) was added. While stirring the reaction mixture, the reaction temperature was slowly increased to room temperature for 3 hours. The reaction mixture was stirred at room temperature for 30 minutes. After the reaction was completed, H2O was added. After stirring for about 5 minutes, the reaction mixture was diluted with ethyl acetate (EtOAc) and washed with water and saturated brine. The organic layer was separated from the reaction mixture and dried with anhydrous magnesium sulfate (MgSO4). The solvent was removed under reduced pressure and the remaining material was purified with column chromatography (EtOAc/n-hexane=1/5) to obtain 51 mg of the product (94%).

reactant | diethyl ether | 1.50 mL | C(C)OCC | C4H10O
reactant | 5-hydroxy-7-trimethylsilanylmethyl-nona-7,8-diene-2-one | 0.36 mmol, 86 mg | OC(CCC(C)=O)CC(=C=C)C[Si](C)(C)C | C13H24O2Si
reactant | trimethylsilyl trifluoromethanesulfonate | 0.36 mmol, 64.7 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-2,3-dimethylene-8-oxa-bicyclo[3.2.1]octane | 51 mg, 94% | CC12C(C(CC(CC1)O2)=C)=C | C10H14O
